US08304419B2
To a solution of 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-(trifluoromethyl)benzonitrile (36.1 mg, 0.105 mmol), 4-bromo-1H-imidazole-5-carboxylic acid (20.0 mg, 0.105 mmol) and diisopropylethyl amine (0.0366 mL, 0.210 mmol) in DMF (5 ml) was added HATU (39.8 mg, 0.105 mmol) and the mixture was stirred at rt for 30 minutes. The reaction mixture was diluted with EtOAc and washed with water. The solvent was removed and the crude material was purified via reverse phase HPLC to give 4-bromo-N-[(4-chloro-3-{[3-cyano-5-(trifluoromethyl)phenyl]oxy}-2-fluorophenyl)methyl]-1H-imidazole-5-carboxamide (11.0 mg, 0.021 mmol, 20% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.27-8.50 (m, 1H), 8.11 (s, 1H), 7.76-7.89 (m, 2H), 7.74 (s, 1H), 7.50 (dd, 1H), 7.37 (t, 1H), 4.50 (d, 2H). LC-MS (ES+) m/z 516.90, [M+H].

reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-(trifluoromethyl)benzonitrile | 0.105 mmol, 36.1 mg | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)C(F)(F)F)F | C15H9ClF4N2O
reactant | 4-bromo-1H-imidazole-5-carboxylic acid | 0.105 mmol, 20.0 mg | BrC=1N=CNC1C(=O)O | C4H3BrN2O2
reactant | diisopropylethyl amine | 0.210 mmol, 0.0366 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.105 mmol, 39.8 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-bromo-N-[(4-chloro-3-{[3-cyano-5-(trifluoromethyl)phenyl]oxy}-2-fluorophenyl)methyl]-1H-imidazole-5-carboxamide | 0.021 mmol, 11.0 mg, 20% yield | BrC=1N=CNC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C(F)(F)F)C#N)F | C19H10BrClF4N4O2
